US07179835B2
2-{[tert-Butyl(dimethyl)silyl]oxy}-N-(cyclopropylmethyl)ethanamine
(tert-Butyldimethylsilyloxy)acetaldehyde (0.98 g) was dissolved in dry methanol (40 ml) and then treated with cyclopropane methylamine (0.634 ml) followed by 4A° molecular sieves (1 g). The resultant mixture was stirred for 5 h at room temperature and then sodium borohydride (0.340 g) was added. After stirring for a further 18 h at room temperature, sodium hydroxide (2N) was added, the mixture was filtered and the filtrate concentrated under reduced pressure. The residue was partitioned between sodium hydroxide (2N) and ethyl acetate. The separated aqueous layer was washed further with ethyl acetate. The combined organic components were dried (over magnesium sulphate), filtered and concentrated under reduced pressure to give the title compound (0.78 g) as a yellow oil.

reactant | (tert-Butyldimethylsilyloxy)acetaldehyde | 0.98 g | [Si](C)(C)(C(C)(C)C)OCC=O | C8H18O2Si
reactant | cyclopropane methylamine | 0.634 ml | C1(CC1)CN | C4H9N
reactant | sodium borohydride | 0.340 g | [BH4-].[Na+]
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | methanol | 40 ml | CO | CH4O
product | 2-{[tert-Butyl(dimethyl)silyl]oxy}-N-(cyclopropylmethyl)ethanamine | 0.78 g | [Si](C)(C)(C(C)(C)C)OCCNCC1CC1 | C12H27NOSi
